US09290481B2
A mixture of 7-Bromo-5-fluoro-indole (1 g), Cu (0.31 g), CuBr (0.64 g) and NH3 (30 mL of a 33% aqueous solution) was heated in an autoclave for 1.5 h at 155° C. The mixture was diluted with water and extracted with ethyl acetate. The organic phase was dried and the solvent removed to give 5-fluoro-7-amino-indole (0.67 g) as an oil which was used without further purification. UPLC/MS found for C8H7FN2 as (M+H)+ 151.0.

reactant | 7-Bromo-5-fluoro-indole | 1 g | BrC=1C=C(C=C2C=CNC12)F | C8H5BrFN
reactant | NH3 | N | H3N
solvent | water | O | H2O
product | 5-fluoro-7-amino-indole | 0.67 g | FC=1C=C2C=CNC2=C(C1)N | C8H7FN2
